US06410775B1
2-[2-(2-tert-Butylthioetlioxy)ethoxy]ethanol, Compound 38
To a mixture of 2-[2-(2-chloroethoxy)ethoxy]ethanol (11.0 g, 65.24 mmol) and tert-butylthiol (7.35 mL, 65.23 mmol) cooled in an ice bath was slowly added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 9.75 mL, 65.23 mmol). The reaction mixture was allowed to warm to room temperature and stirred overnight. This mixture was then diluted with ethyl acetate and filtered. The crude product in the filtrate was purified on a filter column eluted with ethyl acetate to give yellowish oil (14.4 g, 64.6 mmol, 99%): 1H NMR (300 MHz, CDCl3): d 3.73 (br s, 2H), 3.69-3.60 (m, 8H), 2.75 (t, J=7.4, 2H), 2.62 (br s, 1H), 1.32 (s, 9H); 13C NMR (75 MHz, CDCl3): d 72.47, 71.08, 70.33, 70.27, 61.71, 42.09, 30.95, 27.87; MS (ESI): m/e (M+1) Calcd. for C10H23O3S: 223, obsd.: 223.

reactant | 2-[2-(2-chloroethoxy)ethoxy]ethanol | 65.24 mmol, 11.0 g | ClCCOCCOCCO | C6H13ClO3
reactant | tert-butylthiol | 65.23 mmol, 7.35 mL | CC(C)(C)S | C4H10S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 65.23 mmol, 9.75 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(2-tert-Butylthioetlioxy)ethoxy]ethanol | 64.6 mmol, 14.4 g, 99% | C(C)(C)(C)SCCOCCOCCO | C10H22O3S
